US04034088
3-Acetoxymethyl-7-amino-2-(tertiary butoxycarbonyl)-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (5.65 g.) and dicyclohexylcarbodiimide (3.90 g.) are added to a solution of (2-mesyl-imidazol-1-yl)-acetic acid (3.53 g) in dimethylformamide (30 cc.). The reagents are left in contact for 3 days at a temperature of about 20° C., and then the solid is filtered off. The filtrate is taken up in ethyl acetate (150 cc.) and washed successively with a saturated aqueous solution of sodium bicarbonate, with 0.5 N hydrochloric acid and then with water. The organic extracts are dried over sodium sulphate and then treated with decolorising charcoal. After concentration to dryness under reduced pressure (20 mm.Hg), the crystalline residue is washed with isopropyl ether (70 cc.). 3-Acetoxymethyl-2-(tertiary butoxycarbonyl)-7-[(2-mesyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene (7.4 g.), which melts at 164° C., is thus obtained.

reactant | 3-Acetoxymethyl-7-amino-2-(tertiary butoxycarbonyl)-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 5.65 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)OC(C)(C)C | C14H20N2O5S
reactant | dicyclohexylcarbodiimide | 3.90 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (2-mesyl-imidazol-1-yl)-acetic acid | 3.53 g | S(=O)(=O)(C)C=1N(C=CN1)CC(=O)O | C6H8N2O4S
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
product | 3-Acetoxymethyl-2-(tertiary butoxycarbonyl)-7-[(2-mesyl-imidazol-1-yl)-acetamido]-8-oxo-5-thia-1-aza-bicyclo[4,2,0]oct-2-ene | 7.4 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CN1C(=NC=C1)S(=O)(=O)C)=O)=O)C(=O)OC(C)(C)C | C20H26N4O8S2
